US06936608B2
To a solution of 5-fluoro-2-(2-fluoro-5-nitrophenyl)pyridine (1.23 g) in ethanol (70 ml) and dichloromethane (30 ml) was added platinum(IV) oxide (150 mg) and the mixture shaken on a Parr hydrogenation apparatus under an atmosphere of hydrogen at 45 psi for 1 h. Filtration and evaporation of the filtrate afforded 4-fluoro-3-(5-fluoropyridin-2-yl)phenylamine: MS (ES+) m/z 207.

reactant | 5-fluoro-2-(2-fluoro-5-nitrophenyl)pyridine | 1.23 g | FC=1C=CC(=NC1)C1=C(C=CC(=C1)[N+](=O)[O-])F | C11H6F2N2O2
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | platinum(IV) oxide | 150 mg | [Pt](=O)=O
product | 4-fluoro-3-(5-fluoropyridin-2-yl)phenylamine | FC1=C(C=C(C=C1)N)C1=NC=C(C=C1)F | C11H8F2N2
